US07319101B2
a) (3-[1,3]Dioxan-2-yl-4,5-dimethoxy-phenyl)-p-tolyl-methanol
To a solution of 2-(5-Bromo-2,3-dimethoxy-phenyl)-[1,3]dioxane (2 g, 6.6 mmol) in 13 mL dry THF cooled to −78° C., t-BuLi (1.5M solution in pentane, 2.5 eq.) was added dropwise via a syringe and the resulting dark red suspension was stirred 30 min. at −78° C. p-Tolualdehyde (1.2 g, 10 mmol, 1.5 eq.) was added dropwise to the mixture and the resulting clear solution was stirred 30 min at −78° C., then 30 min at 0° C. H2O (25 mL) was slowly added and the resulting solution was extracted with EtOAc (3×25 mL). The pooled organic fractions were dried over MgSO4 and evaporated in vacuo. The crude product was purified using flash chromatography (silica gel, hexane/EtOAc 3:2) to yield the desired compound as a colorless solid.

reactant | 2-(5-Bromo-2,3-dimethoxy-phenyl)-[1,3]dioxane | 6.6 mmol, 2 g | BrC=1C=C(C(=C(C1)C1OCCCO1)OC)OC | C12H15BrO4
reactant | t-BuLi | 1.5M, 2.5 eq. | [Li]C(C)(C)C
reactant | p-Tolualdehyde | 10 mmol, 1.2 g, 1.5 eq. | C1(=CC=C(C=C1)C=O)C | C8H8O
reactant | H2O | 25 mL | O | H2O
solvent | THF | 13 mL | C1CCOC1 | C4H8O
product | (3-[1,3]Dioxan-2-yl-4,5-dimethoxy-phenyl)-p-tolyl-methanol | O1C(OCCC1)C=1C=C(C=C(C1OC)OC)C(O)C1=CC=C(C=C1)C | C20H24O5
